US06673511B1
In 150 g of THF was dissolved 14.9 g of triethanolamine. To the resulting solution was added 40.4 g of triethylamine. The resulting mixture was cooled over ice bath and 15.7 g of acetyl chloride was added dropwise at a temperature not exceeding 30° C. The reaction mixture was heated over an oil bath to 75° C. and heating was conducted for 2 hours under reflux. Then, 20.5 g of acetoxyacetyl chloride was added and the resulting mixture was heated under reflux for further 2 hours. After the reaction mixture was allowed to be cooled down, 100 g of water was added to terminate the reaction. The organic layer thus separated was added with 200 g of dichloromethane, and then washed with 100 g of water. The organic layer was concentrated under reduced pressure, followed by distillation under reduced pressure, whereby 18.3 g of N,N-bis(2-acetoxyethyl)-2-(acetoxyacetoxy)ethylamine was obtained as. the title compound (boiling point: 153 to 155° C./24 Pa, yield: 55%).

reactant | triethanolamine | 14.9 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | triethylamine | 40.4 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 15.7 g | C(C)(=O)Cl | C2H3ClO
reactant | acetoxyacetyl chloride | 20.5 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | THF | 150 g | C1CCOC1 | C4H8O
solvent | water | 100 g | O | H2O
product | N,N-bis(2-acetoxyethyl)-2-(acetoxyacetoxy)ethylamine | 18.3 g | C(C)(=O)OCCN(CCOC(C)=O)CCOC(COC(C)=O)=O | C14H23NO8
